US04337346
2-Carbomethoxy-3-phenyl-1,3-diazabicyclo[3,3,0]-octane prepared from 1.76 g of (S)-2-(anilinomethyl)pyrrolidine, as described in Example 8, was dissolved in 50 ml of THF, then admixed with 1.05 g of anhydrous magnesium chloride and refluxed by heating for 10 minutes. To the mixture cooled to -70° C., was added dropwise an ether solution containing 1.46 equivalents of ethylmagnesium bromide. The resulting mixture was treated as described in Example 12 to obtain 694 mg (28%) of 2-propionyl-3-phenyl-1,3-diazabicyclo[3,3,0]octane. NMR peaks: δ (ppm)=1.0 (3H, triplet), 1.4-2.1 (4H, multiplet), 2.1-2.6 (2H, multiplet), 2.6-3.3 (3H, multiplet), 3.5-3.9 (2H, multiplet), 4.2 (1H, singlet), 6.1-7.1 (5H, multiplet).

reactant | 2-Carbomethoxy-3-phenyl-1,3-diazabicyclo[3,3,0]-octane | C(=O)(OC)C1N2CCCC2CN1C1=CC=CC=C1 | C14H18N2O2
reactant | (S)-2-(anilinomethyl)pyrrolidine | 1.76 g | N(C1=CC=CC=C1)C[C@H]1NCCC1 | C11H16N2
reactant | magnesium chloride | 1.05 g | [Cl-].[Mg+2].[Cl-]
reactant | ethylmagnesium bromide | 1.46 equivalents | C(C)[Mg]Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-propionyl-3-phenyl-1,3-diazabicyclo[3,3,0]octane | 694 mg, 28% | C(CC)(=O)C1N2CCCC2CN1C1=CC=CC=C1 | C15H20N2O
